US07504413B2
3-Chloro-N-[(1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]-4-[(1-methylethyl)oxy]benzamide
A mixture of 1,1-dimethylethyl[(1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]carbamate (1.79 g, 3.31 mmol) and 4 M HCl in 1,4-dioxane (20 mL, 80 mmol) was stirred at room temperature for 45 minutes. The reaction was concentrated to dryness and redissolved in DMF (30 mL). To this solution was added N,N-diisopropylethylamine (2.14 g, 16.55 mmol) and pentafluorophenyl 3-chloro-4[(1-methylethyl)oxy]benzoate (1.36 g, 3.31 mmol). The mixture was stirred overnight at room temperature, diluted with water, and extracted into ethyl acetate. The extracts were washed with water, dried (Na2SO4), and concentrated in vacuo to give the title compound (2.10 g, 100%) as a tan solid. MS (ES+) m/e 637 [M+H]+.

reactant | 1,1-dimethylethyl[(1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]carbamate | 3.31 mmol, 1.79 g | CC(C)(C)N(C([O-])=O)[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C(C)O)C1
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 80 mmol, 20 mL | O1CCOCC1 | C4H8O2
reactant | N,N-diisopropylethylamine | 16.55 mmol, 2.14 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pentafluorophenyl 3-chloro-4[(1-methylethyl)oxy]benzoate | 3.31 mmol, 1.36 g | ClC=1C=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC1OC(C)C | C16H10ClF5O3
solvent | water | O | H2O
product | 3-Chloro-N-[(1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]-4-[(1-methylethyl)oxy]benzamide | 2.10 g, 100% | ClC=1C=C(C(=O)N[C@H](CN2C(C3=CC=CC=C3C2=O)=O)CC2=CC=C(C=C2)C=2N=C3N(C=CC=C3C(C)O)C2)C=CC1OC(C)C | C36H33ClN4O5
